US09289430B2
2-amino-5-chloro-N-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-yl)-benzamide
Into a 100-mL round bottom flask, was placed a solution of 5-chloro-N-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-yl)-2-nitrobenzamide (300 mg, 0.81 mmol, 1.00 equiv) in acetic acid (10 mL), and zinc (527 mg, 8.11 mmol, 9.96 equiv). The resulting solution was stirred for 1 h at 70° C. The resulting mixture was concentrated under vacuum. The solution was adjusted to pH 8 with ammonia (2 mol/L). The resulting solution was extracted with 4×50 mL of ethyl acetate and the organic layers combined, dried over anhydrous sodium sulfate, and concentrated under vacuum. The product was obtained as 200 mg (73%) of a solid.

reactant | 5-chloro-N-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-yl)-2-nitrobenzamide | 0.81 mmol, 300 mg, 1.00 equiv | ClC=1C=CC(=C(C(=O)NC2=NN(C=C2)C2=CC(=C(C=C2)C)C)C1)[N+](=O)[O-] | C18H15ClN4O3
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 8.11 mmol, 527 mg, 9.96 equiv | [Zn] | Zn
product | 2-amino-5-chloro-N-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-yl)-benzamide | 200 mg, 73% | NC1=C(C(=O)NC2=NN(C=C2)C2=CC(=C(C=C2)C)C)C=C(C=C1)Cl | C18H17ClN4O
